US08222248B2
To a solution of 1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoro-ethanone (710 mg), 3,4-dimethylaniline (150 mg) and diisopropylethylamine (150 mg) in methylene chloride (15 mL) was added dropwise 1.1 mL of a 1.0M solution of TiCl4 in methylene chloride. The mixture was stirred at ambient temperature for 10 min then was washed with NaHCO3 solution. The organic phase was dried over sodium sulfate and the solvent was removed under reduced pressure. The residue was purified by flash chromatography using 10% EtOAc/methylene chloride as eluent to give (3,4-dimethyl-phenyl)-[1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoroeth-(Z)-ylidene]-amine as an oil. This was used directly in the next reaction.

reactant | 1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoro-ethanone | 710 mg | CC1=C(C(=CC=C1)C)C=1NC2=C(N1)C=CC(=C2)C(C(F)(F)F)=O | C17H13F3N2O
reactant | 3,4-dimethylaniline | 150 mg | CC=1C=C(N)C=CC1C | C8H11N
reactant | diisopropylethylamine | 150 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
product | (3,4-dimethyl-phenyl)-[1-[2-(2,6-dimethylphenyl)-3H-benzoimidazol-5-yl]-2,2,2-trifluoroeth-(Z)-ylidene]-amine | CC=1C=C(C=CC1C)\N=C(/C(F)(F)F)\C1=CC2=C(N=C(N2)C2=C(C=CC=C2C)C)C=C1 | C25H22F3N3
